US07037921B2
3-(3-Methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexanecarboxylic acid ethyl ester
Dissolve 3-{[3-(3-fluoro-pyridin-4-yl)-5-methyl isoxazole-4-carbonyl]-amino}cyclo-hexanecarboxylic acid ethy ester (0.70 g, 1.87 mmol) in N,N-dimethyl-formamide (10 mL0 at ambient temperature under a nitrogen atmosphere. Add a solution of potassuim bis(trimethylsilyl)amide (0.5 M in toluene, 4.11 mL, 2.06 mmol) and stir for 20 min. at ambient temperature. Quench with water and follow by adding solid sodium chloride. Extract with ethyl acetate and wash the combined extracts with water and dry over sodium sulfate. Concentrate and elute over silica gel using methanol/dichloromethane, allowing for the isolation of 656 mg (99%) of the desired product as a light solid. MS(ES): (M+1)+ 356.2, 357.2 m/z.

reactant | 3-{[3-(3-fluoro-pyridin-4-yl)-5-methyl isoxazole-4-carbonyl]-amino}cyclo-hexanecarboxylic acid ethy ester | 1.87 mmol, 0.70 g | C(C)OC(=O)C1CC(CCC1)NC(=O)C=1C(=NOC1C)C1=C(C=NC=C1)F | C19H22FN3O4
reactant | bis(trimethylsilyl)amide | 2.06 mmol, 0.5 M, 4.11 mL | C[Si](C)(C)[N-][Si](C)(C)C
solvent | N,N-dimethyl-formamide | CN(C=O)C | C3H7NO
product | 3-(3-Methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(CCC1)N1C(C=2C(C3=CC=NC=C13)=NOC2C)=O | C19H21N3O4
